US04714492
1.73 gms of 2,6-diphenyl-1-methyl-4-oxonicotinic acid was suspended in 50 mls of dry methanol. 0.25 gms of NaOH was added. After the carboxylic acid and the NaOH dissolved the solvent was removed yielding 1.75 gms of sodium 2,6-diphenyl-1-methyl-4-oxonicotinate as a glassy solid.

reactant | 2,6-diphenyl-1-methyl-4-oxonicotinic acid | 1.73 gms | C1(=CC=CC=C1)C1=C(C(=O)O)C(C=C(N1C)C1=CC=CC=C1)=O | C19H15NO3
reactant | NaOH | 0.25 gms | [OH-].[Na+]
solvent | methanol | 50 mls | CO | CH4O
product | sodium 2,6-diphenyl-1-methyl-4-oxonicotinate | 1.75 gms | C1(=CC=CC=C1)C1=C(C(=O)[O-])C(C=C(N1C)C1=CC=CC=C1)=O.[Na+] | InChI=1S/C19H15NO3.Na/c1-20-15(13-8-4-2-5-9-13)12-16(21)17(19(22)23)18(20)14-10-6-3-7-11-14;/h2-12H,1H3,(H,22,23);/q;+1/p-1
